US05084458
2g of 4,6-dichloropyrimidine were dissolved in 30 ml of methanol, mixed with 1.37 g of triethylamine and 0.63 g of methyl hydrazine and stirred for 2 days at room temperature. 0.1 ml of methyl hydrazine and 0.2 ml of triethylamine were then added and stirred for 4 days at room temperature. After rotating out the solvent, a residue of 2.4 g of crude 6-chloro-4-(1-methyl-hydrazino)-pyrimidine were obtained, which was immediately processed further.

reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | triethylamine | 1.37 g | C(C)N(CC)CC | C6H15N
reactant | methyl hydrazine | 0.63 g | CNN | CH6N2
reactant | methyl hydrazine | 0.1 ml | CNN | CH6N2
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 ml | CO | CH4O
product | 6-chloro-4-(1-methyl-hydrazino)-pyrimidine | 2.4 g | ClC1=CC(=NC=N1)N(N)C | C5H7ClN4
